data/specific_train_final.csv
"[CH:6]([CH:5]([O:4][O:3][N:2]=[O:1])[Cl:9])([OH:8])[Cl:7]>>[CH:6]([CH:5]([O:4])[Cl:9])([OH:8])[Cl:7].[N:2](=[O:1])[O:3] 3,4-3; 3,4-4",Room Temperature,Initiation,homolyze
"CC(=O)OCC[O:20][O:21]N=O>>CC(=O)OCC[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C(C=O)OO[O:20][N+:21](=O)[O-])O>>CC(C(C=O)OO[O:20])O.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1(C2CC[C:10](C1C2)CO)C.[O:20][O]>>CC1(C2CC[C:10](C1C2)(CO)[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=CCOO[O:20][N+:21](=O)[O-])CO[N+](=O)[O-]>>CC(=CCOO[O:20])CO[N+](=O)[O-].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(=O)OCCOO[O:20][N+:21](=O)[O-]>>CC(=O)OCCOO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:17][O:16][O:15][CH2:14][CH:9]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8])[O:10][O:11][N:12]=[O:13]>>[H:17][O:16][O:15][CH2:14][CH:9]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8])[O:10].[N:12](=[O:13])[O:11] 11,10-11; 11,10-10",Room Temperature,Initiation,homolyze
"[H:20][CH2:21]CC(C)CC.[Cl:10]>>[H:20][Cl:10].CCC(C)C[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][CH:22]C1(C(O1)C(=CC(=O)C)C)C.[O:10][O]>>[H:20][O:10][O].CC(=CC(=O)C)C1C(O1)(C)[CH:22]=[O:21] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[CH2:1]=[C:2](C)[CH:3]([O:10])[CH2:4][OH:5].[O-:31][N+:40]=[O:41]>>[CH2:1]=[C:2](C)[CH:3]([O:10][N+:40]([O-:31])=[O:41])[CH2:4][OH:5] 10-10,40;40-10,40",Room Temperature,Termination,recombine
"[H:6][C:5](=[CH:4][C:3]([CH2:2][Cl:1])[C:8]([H:9])([H:10])[H:11])[H:7]>>[H:6][C:5]([H:7])[CH:4]=[C:3]([CH2:2][Cl:1])[C:8]([H:9])([H:10])[H:11] 3-3,4; 4,5-3,4; 4,5-5",Room Temperature,Propagation,resonance
"[H:20][C:21]1(C=CC(=C([C:22]1O)C)C)O.[O:10][O]>>[H:20][O:10][O].CC1=C([C:22](=[C:21](C=C1)O)O)C 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CCCC(OC(=O)C)[O:10][O:11][O:20][N+:21](=O)[O-]>>CCCC(OC(=O)C)[O:10][O:20][O:11].[N+:21](=O)[O-] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][CH2:21]C(C)(C)OCC.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CCOC(C)(C)[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(OCCO)O[O:20].O[O:10]>>CC(OCCO)O[O:20][O:10]O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C(C)O)O[O:20].[N:10]=O>>CCC(C(C)O)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:4][C:3]([H:5])([C:2](=[CH:8][CH2:9][Cl:10])[CH3:1])[O:6][O:7]>>[H:4][C:3]([H:5])[C:2](=[CH:8][CH2:9][Cl:10])[CH3:1].[O:6][O:7] 3,6-3; 3,6-6",Room Temperature,Initiation,homolyze
"[H:9][O:8][O:7][CH2:6][C:2]([CH3:1])([CH:3]=[CH:4][OH:5])[O:10][O:11]>>[H:9][O:11][O:10][C:2]([CH3:1])([CH2:6][O:7][O:8])[CH:3]=[CH:4][OH:5] 11-11,9; 9,8-11,9; 9,8-8",Room Temperature,Propagation,abstraction
"[CH3:1][C:2](=[O:5])[O:3][O:4].[N+:7](=[O:6])[O-:8]>>[CH3:1][C:2](=[O:5])[O:3][O:4][N+:7](=[O:6])[O-:8] 4-7,4; 7-7,4",Room Temperature,Termination,recombine
"C1CCC(C(C1)O)[O:21][O:20][O].[N+](=O)[O-]>>C1CCC(C(C1)O)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][C:21](=O)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].C[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
[CH3:1][O:2][CH2:3][O:4].[N:5](=[O:6])[O:7]>>[CH3:1][O:2][CH2:3][O:4].[N+:5](=[O:6])[O-:7] 5-7,Room Temperature,Propagation,ha resonance
"[H:20][O:21][O].CC(O[O:10])Cl>>[H:20][O:10]OC(C)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)C12C=C[CH:10]C(C1O)[O:20][O:21]2>>CC(C)C1(C=C[CH:10]2C(C1O)[O:20]2)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CC(C)C(C[O:21][O:20][O])O[N+](=O)[O-].[N+](=O)[O-]>>CC(C)C(C[O:21])O[N+](=O)[O-].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"COC(CO)[O:20][O:21][O]>>COC(CO)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"COCO[O:20].O[O:10]>>COCO[O:20][O:10]O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=CC(=CC(=C1)COO[O:20][N+:21](=O)[O-])C>>CC1=CC(=CC(=C1)COO[O:20])C.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:4][C:3](=[CH:2][OH:1])[CH:5]([CH2:8][O:9])[O:6][OH:7].[N+:11](=[O:12])[O-:10]>>[CH3:4][C:3](=[CH:2][OH:1])[CH:5]([CH2:8][O:9][N+:11](=[O:12])[O-:10])[O:6][OH:7] 9-9,11; 11-9,11",Room Temperature,Termination,recombine
"COC(=O)COO[O:20][N+:21](=O)[O-]>>COC(=O)COO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1=C(C=C(C=C1)C[O:20][O:21][O])C.[N+](=O)[O-]>>CC1=C(C=C(C=C1)C[O:20])C.[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(CO)(C(C=O)[O:20][O:21]N=O)O>>CC(CO)(C(C=O)[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
